US06472349B1
2.1 2-Methyl-3-methylthioaniline
At 20° C., 4.3 g (61.81 mmol) of sodium thiomethoxide were added with stirring and ice-cooling to 10 g (53.75 mmol) of 3-bromo-2-methylaniline in 100 ml of N-methylpyrrolidine. After addition of 200 mg of copper powder, the reaction mixture was transferred into an autoclave and stirred at 240° C. for 16 h. The reaction solution was subsequently poured into 300 ml of ice-water and extracted 3× with methyl tert-butyl ether. The organic extracts were washed with water, dried and concentrated. The residue was chromatographed over silica gel using methylene chloride, giving 1.7 g (20.6% of theory) of the title compound as a colorless oil.

reactant | sodium thiomethoxide | 61.81 mmol, 4.3 g | C[S-].[Na+]
reactant | 3-bromo-2-methylaniline | 53.75 mmol, 10 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
solvent | N-methylpyrrolidine | 100 ml | CN1CCCC1 | C5H11N
catalyst | copper | 200 mg | [Cu] | Cu
product | 2-Methyl-3-methylthioaniline | CC1=C(N)C=CC=C1SC | C8H11NS
